US05994373
3-(5-Amino-4-isoxazolyl)pyridine
To a solution of α-(dimethylamino)-α-(3-pyridyl)acetonitrile (5.19 g, 30 mmol) in acetic acid (40 ml) was added hydroxylamine hydrochloride (2.8 g, 40 mmol). The reaction mixture was stirred at 100° C. for 1 hour, cooled to room temperature and concentrated in vacuo. Water (50 ml) was added and the reaction mixture neutralized with solid potassium carbonate. The precipitated compound was filtered washed with water and dried giving the title compound in 4.2 g yield.

reactant | α-(dimethylamino)-α-(3-pyridyl)acetonitrile | 30 mmol, 5.19 g | CN(C(C#N)C=1C=NC=CC1)C | C9H11N3
reactant | hydroxylamine hydrochloride | 40 mmol, 2.8 g | Cl.NO
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 3-(5-Amino-4-isoxazolyl)pyridine | NC1=C(C=NO1)C=1C=NC=CC1 | C8H7N3O
